datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21.C[Si:63](C)(C)[O:12][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH2:10][C:11](=[O+:12][Si:63](C)(C)C)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC(C)(C)[N+:61]#[C-:10].F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC(C)(C)[N+:61]#[C:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1 10=20
"CC(C)(C)[Si:63](C)(C)[CH2:62][CH:11]=[CH2:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][CH+:11][CH2:62][Si:63](C)(C)C(C)(C)C)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=CC=C2)[C:72](=[O:73])[O:83]1.[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>CC1(C)[O:62][C:91](=[O:92])[C:10](CC2=CC=CC=C2)([CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[N:33][C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)[C:72](=[O:73])[O:83]1 10=20;20,21=21,22;22,23=23"
"CC1(C)CCC[NH:10]1.COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1>>COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]([NH+:10]2CCCC2(C)C)[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=C[C:61]2=[C:62](C=C1)[NH:12][N:11]=[N:10]2.[CH:20]1=[CH:21][C:22](=[O:23])[CH:30]=[CH:31][C:32]1=[O:33]>>C1=C[C:61]2=[C:62](C=C1)[NH+:12]=[N:11][N:10]2[CH:20]1[CH:21]=[C:22]([O-:23])[CH:30]=[CH:31][C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.CC[N:72](CC)[C:61]([CH-:10][C:81](C)=[O:82])=[O:62]>>CC[N:72](CC)[C:61]([CH:10]([C:20]([O-:21])=[N:31]C1=CC=CC=C1)[C:81](C)=[O:82])=[O:62] 10=20;20,21=21"
"C1CC[N:72]([C:61]([S-:10])=[S:62])CC1.CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1>>CC1=CC=C([S:32]([CH-:21][CH:20](C2=CC=CC=C2)[S:10][C:61](=[S:62])[N:72]2CCCCC2)(=[O:33])=[O:34])C=C1 10=20;20,21=21"
"C1=CC=C([C:81]([CH-:10][N+:71]2=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]2)=[O:82])C=C1.C[C:22]([CH:21]=[CH2:20])=[O:23]>>C[C:22](=[CH:21][CH2:20][CH:10]([N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[C:81](C1=CC=CC=C1)=[O:82])[O-:23] 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23].N#CC1=CC=C([N+:61]#[C-:10])C=C1>>CC(C)(C)[O:33][C:22](=[N:21][CH:20](C1=CC=CC=C1)[C:10]#[N+:61]C1=CC=C(C#N)C=C1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.CC1(C)CCC[NH:10]1>>CC1(C)CCC[NH+:10]1[CH:20]([CH:21]=[CH:22][N:23](CC1=CC=CC=C1)CC1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C3=C(C=CC=C3)[O:62]2)S1.C[C:22]([CH:21]=[CH2:20])=[O:23]>>CC1=CC=[C:10]([CH2:20][CH:21]=[C:22](C)[O-:23])S1.FC(F)(F)C1=CC=C([B-:11]2=[O+:12]C3=C(C=CC=C3)[O:62]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.Cl[C:63]1=[CH:64][CH:73]=[CH:72][N+:61](/[CH:10]=[C:11](/C2=CC=CC=C2)[O-:12])=[CH:62]1>>Cl[C:63]1=[CH:64][CH:73]=[CH:72][N+:61]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[CH:20]([C:31]2=[CH:32][CH:33]=[C:34](N3CCCC3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](N3CCCC3)[CH:45]=[CH:46]2)=[CH:62]1 10,11=10,20;12=11,12"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:22](=[O:23])[O:39]1.C[N:14](C)[C:13]1=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]1>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([N:10]2[CH:11]=[CH:12][C:13](=[N+:14](C)C)[CH:62]=[CH:61]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[C:22]([O-:23])[O:39]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC[Si:63](CC)(CC)[CH2:62][CH2:11][H:10].[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC[Si:63](CC)(CC)[CH2:62][CH2+:11].[H:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)O[B-:63](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH2:62][CH:11]=[CH2:10])OC1(C)C.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][CH+:11][CH2:62][B-:63]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)OC(C)(C)C(C)(C)O2)[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
